US05167948
Ferrocenyl-nitropropene is prepared by reacting 2.14 g ferrocenecarboxaldehyde with 2.25 g nitroethane 1.40 g ammoniumacetate and 10 ml of glacial acetic acid during 24 hours at room temperature in the dark. After heating the reaction mixture 2 hours at 100° C. and dilution with 100 ml of ice-water the formed ferrocenyl-nitropropene is extracted with diethylether. The organic solution is washed successively with Na2S2O4 -containing water, with diluted ammonia and finally with water until neutral. After drying and evaporating the diethylether, the residue obtained is recrystalized from methanol. The desired ferrocenyl-nitropropene is obtained in a yield of 80%; m.p. 48° C.; TLC: Rf (diethylamine/diethylether 5/95) 0.86.

reactant | ferrocenecarboxaldehyde | 2.14 g | [C-]1(C=CC=C1)C=O.[CH-]1C=CC=C1.[Fe+2]
reactant | nitroethane | 2.25 g | [N+](=O)([O-])CC | C2H5NO2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | ferrocenyl-nitropropene | [C-]1(C=CC=C1)C(=CC)[N+](=O)[O-].[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C8H8NO2.C5H5.Fe/c1-2-8(9(10)11)7-5-3-4-6-7;1-2-4-5-3-1;/h2-6H,1H3;1-5H;/q2*-1;+2
